US09447139B2
3α-Aminocholest-5-ene (1.61 mmol, 0.59 g) was dissolved in 2 mL of anhydrous diethyl ether. Hydrogen chloride (2.0 M in diethyl ether) (3.22 mmol, 1.61 mL) was then added. After 3 hours, a white precipitate formed. The reaction was then filtered and the solid was washed with diethyl ether to afford 3α-aminocholest-5-ene hydrochloride (0.31 g, 46%) as a white solid. mp 293-295° C.; IR (thin film) 2947 cm−1; 1H NMR (300 MHz, CDCl3) d 8.25 (s, 3H), 5.52 (d, 1H, J=4.3 Hz), 3.58 (s, 1H), 2.61 (d, 1H, J=14.6 Hz), 2.36 (d, 1H, J=15.0 Hz), 2.02-1.07 (m, 26H), 1.01 (s, 3H), 0.91 (d, 3H, J=6.3 Hz), 0.86 (d, 6H, J=6.6 Hz), 0.67 (s, 3H).

reactant | 3α-Aminocholest-5-ene | 1.61 mmol, 0.59 g | N[C@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C27H47N
reactant | Hydrogen chloride | 3.22 mmol, 2.0 M, 1.61 mL | Cl | ClH
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
product | 3α-aminocholest-5-ene hydrochloride | 0.31 g, 46% | Cl.N[C@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | InChI=1S/C27H47N.ClH/c1-18(2)7-6-8-19(3)23-11-12-24-22-10-9-20-17-21(28)13-15-26(20,4)25(22)14-16-27(23,24)5;/h9,18-19,21-25H,6-8,10-17,28H2,1-5H3;1H/t19-,21-,22+,23-,24+,25+,26+,27-;/m1./s1
